US08563735B2
4-(1-methylpiperidin-4-yloxy)-3-nitrobenzenesulfonamide
To a mixture of 1-methylpiperidin-4-ol (0.542 g) in tetrahydrofuran (10 mL) at 0° C. was added NaH (60% in mineral oil) (0.753 g). After stirring for 15 minutes, 4-fluoro-3-nitrobenzenesulfonamide (1.036 g) was added as a solution in tetrahydrofuran (10 mL). The reaction was removed from the ice bath and allowed to warm to room temperature. After 1 hour, the reaction was poured into water and the pH adjusted to ˜7 with 1N aqueous HCl. The reaction was extracted with dichloromethane (3×100 mL), washed with brine, dried over magnesium sulfate, filtered, and concentrated. The product was suspended in dichloromethane (mL), sonicated and then filtered to give the title compound.

reactant | 1-methylpiperidin-4-ol | 0.542 g | CN1CCC(CC1)O | C6H13NO
reactant | NaH | 0.753 g | [H-].[Na+]
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 1.036 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(1-methylpiperidin-4-yloxy)-3-nitrobenzenesulfonamide | CN1CCC(CC1)OC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C12H17N3O5S
